US06008230
To a suspension of 8-(2,6-dichlorobenzoylamino)-4-hydrazinoquinoline (200 mg) in ethylene chloride (2 ml) was dropwise added propionic anhydride (82.5 mg) at ambient temperature, and the mixture was stirred at the same temperature overnight. The mixture was evaporated in vacuo, and the residue was crystallized from ethanol to give 8-(2,6-dichlorobenzoylamino)-4-(2-propionylhydrazino)quinoline (40 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-hydrazinoquinoline | 200 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)NN)C(=CC=C1)Cl | C16H12Cl2N4O
reactant | propionic anhydride | 82.5 mg | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | ethylene chloride | 2 ml | C(CCl)Cl | C2H4Cl2
product | 8-(2,6-dichlorobenzoylamino)-4-(2-propionylhydrazino)quinoline | 40 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)NNC(CC)=O)C(=CC=C1)Cl | C19H16Cl2N4O2
